* Exercício 6 - Sensor de Temperatura Semicondutor
* Disciplina: Circuitos Eletrônica I - T3

I1 0 n1 2m
I2 0 n2 1m
D1 n1 0 Dmod
D2 n2 0 Dmod

.model Dmod D(IS=1e-14 N=1.0)
.end