* Circuit A - Paralell Clipper Simulation Netlist
* Course: Circuitos Eletrônicos I - T3

* 1. Voltage sources
Vinput v_in 0 DC 0V

* 2. Components
R1 v_in out 1k
D1 0 out Dmod
D2 out 0 Dmod

* 3. Diode Model Definitions (approx. 0.7V forward drop)
.model Dmod D(IS=1e-12 N=1.2)

.end