* Exercício 5.a - Clamping
* Disciplina: Circuitos Eletrônica I - T3

* Fontes de Alimentação
V2 vdd 0 5

* Entrada senoidal 
V1 vi 0 sin(0 10 60)

R1 vi vo 1k
D1 0 vo Dmod
D2 vo vdd Dmod

.model Dmod D(IS=1e-12 N=1.15)
.end