* Exercício 5.c - Retificador full-bridge
* Disciplina: Circuitos Eletrônica I - T3

* Entrada senoidal 
V1 vi 2 sin(0 10 60)

D1 vi vo Dmod
D2 0 vi Dmod
D3 2 vo Dmod
D4 0 2 Dmod
R1 vo 0 1k

.model Dmod D(IS=1e-12 N=1.15)
.end